US08466186B2
(a) 4,5-Difluoro-N-methyl-2-nitroaniline
A solution of MeNH2 in THF (5.7 mL, 2 M, 11 mmol) was added dropwise to a solution of 1,2,4-trifluoro-5-nitrobenzene (1.0 g, 5.7 mmol) in THF (10 mL) at −20° C. The mixture was stirred at −20° C. for 1 h, concentrated, washed with brine and extracted with EtOAc. The organic layer was dried over Na2SO4, filtered and concentrated. Crystallization from EtOAc/PE gave the sub-title compound. Yield: 1.0 g (81%).

reactant | MeNH2 | CN | CH5N
reactant | 1,2,4-trifluoro-5-nitrobenzene | 5.7 mmol, 1.0 g | FC1=C(C=C(C(=C1)[N+](=O)[O-])F)F | C6H2F3NO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 11 mmol, 2 M, 5.7 mL | C1CCOC1 | C4H8O
product | 4,5-Difluoro-N-methyl-2-nitroaniline | FC1=CC(=C(NC)C=C1F)[N+](=O)[O-] | C7H6F2N2O2
